US04448962
A mixture of 1-allyl-6-fluoro-7-chloro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid 0.94 g, piperazine 2.9 g and 2 ml of pyridine was refluxed for 8 hours by heating. After cooling, the reaction mixture was evaporated under vacuum. The residue was dissolved in an aqueous solution of acetic acid and the insoluble matters were removed by filtration. The filtrate was neutralized with an aqueous solution of NaOH. The precipitated crystals were collected by filtration, washed with water and dried. Recrystallizing the crystals from a mixed solvent of concentrated hydrochloric acid and ethanol, 0.32 g (26%) of 1-allyl-6-fluoro-1,4-dihydro-4-oxo-(1-piperazinyl)-quinoline-3-carboxylic acid hydrochloride was obtained. Colorless powders.

reactant | 1-allyl-6-fluoro-7-chloro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.94 g | C(C=C)N1C=C(C(C2=CC(=C(C=C12)Cl)F)=O)C(=O)O | C13H9ClFNO3
reactant | piperazine | 2.9 g | N1CCNCC1 | C4H10N2
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 1-allyl-6-fluoro-1,4-dihydro-4-oxo-(1-piperazinyl)-quinoline-3-carboxylic acid hydrochloride | 0.32 g, 26% | Cl.C(C=C)N1C(=C(C(C2=CC(=CC=C12)F)=O)C(=O)O)N1CCNCC1 | InChI=1S/C17H18FN3O3.ClH/c1-2-7-21-13-4-3-11(18)10-12(13)15(22)14(17(23)24)16(21)20-8-5-19-6-9-20;/h2-4,10,19H,1,5-9H2,(H,23,24);1H
